US08609692B2
(R)-6-fluoro-2,2-bis(fluoromethyl)chroman-4-amine
A solution of Example 65B (54.1 mmol) in THF (190 mL) was cooled to <5° C. To this solution was added 1,8-diazabicyclo[5.4.0]undec-7-ene (12.1 mL, 81.0 mmol) followed by diphenylphosphoryl azide (15.2 mL, 70.3 mmol), keeping the temperature ≦5° C. (no exotherm). After stirring for 2 hours at ≦5° C., the reaction mixture was warmed to ambient temperature and stirred for 14 hours. The reaction mixture was diluted with MTBE (250 mL), washed with 2N NaOH (2×125 mL), brine (50 mL), 2N HCl (2×125 mL), and brine (50 mL). The organic portion was dried (Na2SO4), filtered, and concentrated, giving (R)-4-azido-6-fluoro-2,2-bis(fluoromethyl)chroman (14.6 g, >100%) as a dark oil. The crude (R)-4-azido-6-fluoro-2,2-bis(fluoromethyl)chroman in MeOH (300 mL) was added to 5% Pd—C (4.38 g) in a 500 mL stainless steel pressure bottle. The mixture was stirred for 3 hours at 50° C. and 30 psi H2. Upon cooling, the reaction mixture was filtered through a nylon membrane and concentrated. The resulting residue was used without further purification. MS (DCI) m/z 232 (M+H)+.

reactant | (R)-4-azido-6-fluoro-2,2-bis(fluoromethyl)chroman | N(=[N+]=[N-])[C@@H]1CC(OC2=CC=C(C=C12)F)(CF)CF | C11H10F3N3O
solvent | MeOH | 300 mL | CO | CH4O
catalyst | Pd—C | 4.38 g | [Pd] | Pd
product | (R)-6-fluoro-2,2-bis(fluoromethyl)chroman-4-amine | FC=1C=C2[C@@H](CC(OC2=CC1)(CF)CF)N | C11H12F3NO
